US04322548
Using the method of Example 1, racemic mandelic acid was resolved in separate experiments with D(-) phenylglycine methyl ester HCl, D(-) phenylglycine isopropylester HCl, and D(-) phenylglycine decyl ester DCl. The following table gives the results of these experiments (compared with phenylglycine butyl ester):

reactant | racemic mandelic acid | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | phenylglycine methyl ester HCl | Cl.COC(CNC1=CC=CC=C1)=O
reactant | phenylglycine isopropylester HCl | Cl.C(C)(C)OC(CNC1=CC=CC=C1)=O
reactant | phenylglycine decyl ester | C(CCCCCCCCC)OC(CNC1=CC=CC=C1)=O | C18H29NO2
product | phenylglycine butyl ester | C(CCC)OC(CNC1=CC=CC=C1)=O | C12H17NO2
